US07777047B2
N-[2-(8-ethyl-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
To a solution of N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (100 mg) and acetaldehyde (90%) (100 μL) in tetrahydrofuran (3 ml) was added sodium triacetoxyborohydride (125 mg), and the mixture was stirred at room temperature for 30 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (83 mg, yield 80%) as colorless crystals from a fraction eluted with ethyl acetate. melting point 215° C.

reactant | N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 100 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCNCC2 | C20H22N4O2S3
reactant | acetaldehyde | 100 μL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 125 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-[2-(8-ethyl-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 83 mg, yield 80% | C(C)N1CCC2(CN=C(S2)C=2NC3=C(C=CC=C3C2)N(S(=O)(=O)C=2SC=CC2)C)CC1 | C22H26N4O2S3
